US07964607B2
6-{(3S,4S)-4-methyl-1-[2-(trifluoromethyl)benzyl]pyrrolidin-3-yl}-1-(tetrahydro-2H-pyran-4-yl)-1,5-dihydro-4H-pyrazolo[3,4-d]pyrimidin-4-one
Following the procedure for the preparation of 6-{(3S,4S)-4-methyl-1-[(2-methylpyrimidin-5-yl)methyl]pyrrolidin-3-yl}-1-(tetrahydro-2H-pyran-4-yl)-1,5-dihydro-4H-pyrazolo[3,4-d]pyrimidin-4-one but substituting sodium cyanoborohydride and 2-(trifluoromethyl)benzaldehyde provided the title compound. 400 MHz 1H NMR (CDCl3) δ 10.58 (brs, 1H), 8.01 (s, 1H), 7.79-7.76 (m, 1H), 7.64-7.58 (m, 2H), 7.37-7.34 (m, 1H), 4.83-4.76 (m, 1H), 4.14-4.08 (m, 2H), 3.88 (m, 2H), 3.62-3.54 (m, 2H), 3.39 (t, J=8.3 Hz, 1H), 3.02-2.97 (m, 1H), 2.85 (m, 1H), 2.66 (m, 1H), 2.44-2.27 (m, 3H), 2.06-2.03 (m, 1H), 1.91-1.83(m,2H), 1.21 (d,J=7.1 Hz, 3H). MS: (M+H m/z 462.1).

reactant | 6-{(3S,4S)-4-methyl-1-[(2-methylpyrimidin-5-yl)methyl]pyrrolidin-3-yl}-1-(tetrahydro-2H-pyran-4-yl)-1,5-dihydro-4H-pyrazolo[3,4-d]pyrimidin-4-one | C[C@H]1[C@@H](CN(C1)CC=1C=NC(=NC1)C)C=1NC(C2=C(N1)N(N=C2)C2CCOCC2)=O | C21H27N7O2
reactant | sodium cyanoborohydride | C(#N)[BH3-].[Na+]
reactant | 2-(trifluoromethyl)benzaldehyde | FC(C1=C(C=O)C=CC=C1)(F)F | C8H5F3O
product | 6-{(3S,4S)-4-methyl-1-[2-(trifluoromethyl)benzyl]pyrrolidin-3-yl}-1-(tetrahydro-2H-pyran-4-yl)-1,5-dihydro-4H-pyrazolo[3,4-d]pyrimidin-4-one | C[C@H]1[C@@H](CN(C1)CC1=C(C=CC=C1)C(F)(F)F)C=1NC(C2=C(N1)N(N=C2)C2CCOCC2)=O | C23H26F3N5O2
